US08067445B2
Step 2: (2′-Formyl-6′-methoxy-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-bromo-3-methoxy-benzaldehyde and [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester.

reactant | 2-bromo-3-methoxy-benzaldehyde | BrC1=C(C=O)C=CC=C1OC | C8H7BrO2
reactant | [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H21BO4
product | (2′-Formyl-6′-methoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=C(C=CC=C1OC)C=O)=O | C17H16O4
